US04134752
A suspension of thallium (I) phenoxide (28.6 w) in dry ether (100 v) was rapidly treated with 2-chloroethanesulfinyl chloride, prepared as in Example I. The slurry was vigorously stirred for 1 hour at ambient temperature with exclusion of moisture. Removal of thallium(I) chloride by filtration and evaporation of the etheral filtrate solution gave an oil. The oil was then subjected to molecular distillation in a wiped-film apparatus at 70-75° (1 ×10-4 torr) to give phenyl 2-chloroethanesulfinate (122 w) as a mobile liquid.

reactant | thallium (I) phenoxide | [O-]C1=CC=CC=C1.[Tl+]
reactant | 2-chloroethanesulfinyl chloride | ClCCS(=O)Cl | C2H4Cl2OS
solvent | ether | CCOCC | C4H10O
product | phenyl 2-chloroethanesulfinate | ClCCS(=O)OC1=CC=CC=C1 | C8H9ClO2S
